US06617346B1
Hydrogen chloride gas was passed through a solution of 3,5-bis-methoxymethyl-benzonitrile (1 g, 5.2 mmol) in anhydrous ethanol (150 mL) at room temperature. After 5.5 h, hydrogen chloride gas was stopped. The solvent was evaporated in vacuo and the residue was triturated in diethyl ether to afford ethyl 3,5-bis-methoxymethyl-benzimidate hydrochloride (658 mg, 46%). It was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 3,5-bis-methoxymethyl-benzonitrile | 5.2 mmol, 1 g | COCC=1C=C(C#N)C=C(C1)COC | C11H13NO2
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 3,5-bis-methoxymethyl-benzimidate hydrochloride | 658 mg, 46% | Cl.COCC=1C=C(C(OCC)=N)C=C(C1)COC | InChI=1S/C13H19NO3.ClH/c1-4-17-13(14)12-6-10(8-15-2)5-11(7-12)9-16-3;/h5-7,14H,4,8-9H2,1-3H3;1H
